US07335658B2
1-PHENETHYL-3-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)-PIPERAZIN-1-YL]-PYRIDAZIN-3-YL}UREA
Following the procedure of Example 5, making variations only as required to use 2-phenylethylisocyanate in place of (2-isocyanatocyclopropyl)benzene to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone, the title compound was obtained as a white solid (19% yield). 1H NMR (500 MHz, CDCl3) δ 7.92, 7.60, 7.64, 7.58, 7.37, 7.13-7.24, 7.09, 3.96-4.03, 3.82-3.89, 3.40-3.56, 3.22-3.34, 2.86.

reactant | 2-phenylethylisocyanate | C1(=CC=CC=C1)CCN=C=O | C9H9NO
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 1-PHENETHYL-3-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)-PIPERAZIN-1-YL]-PYRIDAZIN-3-YL}UREA | C(CC1=CC=CC=C1)NC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C25H25F3N6O2
